US04673740
33.6 g of 4-trifluoromethylmercaptobenzoyl fluoride and 12 g of 50% strength sodium hydroxide solution are added simultaneously via 2 feed apparatuses in the course of 30 minutes at from 20° to 39° C. to a stirred mixture of 25.7 g of 6-chloroanthranilic acid, 0.27 g of benzyltrimethylammonium chloride and 450 g of 1,2-dichloroethane. Stirring is continued for 90 minutes at 27° C., after which the water is separated off and 21.5 g of phosphoryl chloride are added at 70° C. Stirring is continued for 3 hours at 82° C., after which the mixture is cooled to 30° C. and extracted 3 times with water. Evaporating down the solution, in the final stage at 140° C. and under 2 mbar, gives 48.8 g (91%) of 5-chloro-2-(p-trifluoromethylmercaptophenyl)-4H-3,1-benzoxazin-4-one of melting point 135°-140° C.

reactant | 4-trifluoromethylmercaptobenzoyl fluoride | 33.6 g | FC(F)(F)SC1=CC=C(C(=O)F)C=C1 | C8H4F4OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 6-chloroanthranilic acid | 25.7 g | ClC=1C=CC=C(C1C(=O)O)N | C7H6ClNO2
catalyst | benzyltrimethylammonium chloride | 0.27 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | 1,2-dichloroethane | 450 g | ClCCCl | C2H4Cl2
product | 5-chloro-2-(p-trifluoromethylmercaptophenyl)-4H-3,1-benzoxazin-4-one | 48.8 g, 91% | ClC1=CC=CC2=C1C(OC(=N2)C2=CC=C(C=C2)SC(F)(F)F)=O | C15H7ClF3NO2S
